US07795267B2
N-[[(Aminocarbonyl)amino]methyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
[[[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]amino]methyl]carbamic azide (68 mg, 0.16 mmol) was dissolved in methanol (3 mL). Nickel (II) chloride hexahydrate (77 mg, 0.32 mmol) and sodium borohydride (12 mg, 0.32 mmol) were added thereto, and the mixture was stirred at room temperature for 4 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The precipitated powder was washed with diisopropyl ether and dried to obtain the title compound (52 mg, yield 81%).

reactant | [[[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]amino]methyl]carbamic azide | 0.16 mmol, 68 mg | O=C1OC(C2N1CCN(C2)C(=O)NCNC(=O)N=[N+]=[N-])(C2=CC=CC=C2)C2=CC=CC=C2 | C21H21N7O4
reactant | sodium borohydride | 0.32 mmol, 12 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
catalyst | Nickel (II) chloride hexahydrate | 0.32 mmol, 77 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | N-[[(Aminocarbonyl)amino]methyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 52 mg, yield 81% | NC(=O)NCNC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C21H23N5O4
